US04490369
(a) 7,8-Dimethoxy-2-amino-4-bromo-1H-3-benzazepinehydrobromide
3.7 gm (0.017 mol) of 3,4-dimethoxy-o-phenylenediacetonitrile were suspended in 10 ml of glacial acetic acid, and the suspension was mixed at 20° C. with 12 ml of 30% hydrobromic acid in glacial acetic acid. After stirring for 3 hours at room temperature, the obtained precipitate was suction-filtered off, washed with glacial acetic acid and then with acetone/ether, and dried.

reactant | 3,4-dimethoxy-o-phenylenediacetonitrile | 0.017 mol, 3.7 gm | COC=1C(=C(C=CC1OC)CC#N)CC#N | C12H12N2O2
reactant | hydrobromic acid | 12 ml | Br | BrH
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 7,8-Dimethoxy-2-amino-4-bromo-1H-3-benzazepinehydrobromide | Br.COC1=CC2=C(CC(=NC(=C2)Br)N)C=C1OC | InChI=1S/C12H13BrN2O2.BrH/c1-16-9-3-7-5-11(13)15-12(14)6-8(7)4-10(9)17-2;/h3-5H,6H2,1-2H3,(H2,14,15);1H
